.SUBCKT UA555 trigger output reset control threshold dishcharge vsupply gnd
* TR O R F TH D V+ V-
* Taken from the Fairchild data book (1982) page 9-3.
* SYM=UA555
Q4 25 2 3 QP
Q5 gnd 6 3 QP
Q6 6 6 8 QP
R1 9 vsupply 4.7K
R2 3 vsupply 830
R3 8 vsupply 4.7K
Q7 2 threshold 5 QN
Q8 2 5 17 QN
Q9 6 4 17 QN
Q10 6 control 4 QN
Q11 12 20 10 QP
R4 10 vsupply 1K
Q12 22 11 12 QP
Q13 14 13 12 QP
Q14 gnd 32 11 QP
Q15 14 18 13 QP
R5 14 gnd 100K
R6 22 gnd 100K
R7 17 gnd 10K
Q16 dishcharge 15 gnd QN
Q17 15 reset 31 QP
R8 18 control 5K
R9 18 gnd 5K
R10 vsupply control 5K
R11 31 gnd 220K
Q18 20 20 vsupply QP
Q19 output 22 20 QP
Q20 24 22 25 QN
Q21 output 24 gnd QN
D1 24 25 DX
R12 25 gnd 220K
Q22 31 15 gnd QN
R13 32 31 4.7K
Q23 32 gnd gnd QN
D2 11 13 DX
Q24 11 14 18 QP
D3 output vsupply DX
.MODEL QP PNP (level=1 BF=20 BR=0.02 RC=4 RB=25 IS=1.0E-14 VA=50 NE=2 CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=159N)
.MODEL QN NPN (level=1 IS=5.07F NF=1 BF=100 VAF=161 IKF=30M ISE=3.9P NE=2 BR=4 NR=1 VAR=16 IKR=45M RE=1.03 RB=4.12 RC=.412 XTB=1.5 CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=959P)
.MODEL DX D (level=1 IS=1.0E-14)
.ENDS